US06147088
Step 7C 2-{2-[3-(3-bromophenyl)-7-chloro-6-nitro-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 3-(3-bromophenyl)-7-chloro-4-hydroxy-6-nitro-1H-quinolin-2-one (100 mg in 4.0 mL of tetrahydrofuran) at 0° C. was added 64 mg of 2-(2-hydroxyethyl)-piperidine-1-carboxylic acid tert-butyl ester and 93 mg of triphenylphosphine followed by 0.050 mL of diethyl azodicarboxylate and the mixture warmed to room temperature. After 20 hours, the solvents were removed in vacuo and the residue purified by flash chromatography on silica gel (hexane:ethylacetate, 2:1) to give the title compound (92 mg).

reactant | 3-(3-bromophenyl)-7-chloro-4-hydroxy-6-nitro-1H-quinolin-2-one | 4.0 mL, 100 mg | BrC=1C=C(C=CC1)C=1C(NC2=CC(=C(C=C2C1O)[N+](=O)[O-])Cl)=O | C15H8BrClN2O4
reactant | 2-(2-hydroxyethyl)-piperidine-1-carboxylic acid tert-butyl ester | 64 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCO | C12H23NO3
reactant | triphenylphosphine | 93 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.050 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 2-{2-[3-(3-bromophenyl)-7-chloro-6-nitro-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 92 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)[N+](=O)[O-])Cl)=O)C1=CC(=CC=C1)Br | C27H29BrClN3O6
